US08604061B2
c) (2S,4S)-2-Amino-4-phenyl-hexanoic acid methyl ester
To a solution of trifluoroacetic acid (3.4 ml) in water (440 ml) was added dropwise over 15 min a solution of (2R,5S)-2-isopropyl-3,6-dimethoxy-5-((S)-2-phenyl-butyl)-2,5-dihydro-pyrazine (4.69 g, 14.8 mmol) in acetonitrile (75 ml). The mixture was stirred overnight at room temperature then made basic by addition of saturated aqueous sodium carbonate solution and the mixture was extracted with ethyl acetate. The phases were separated and the organic phase was washed sequentially with water and with saturated brine, then dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography (SiO2, EtOAc/heptane) to yield a yellow oil (2.78 g, 85%); MS (ISP): 222.1 ([M+H]+).

reactant | trifluoroacetic acid | 3.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2R,5S)-2-isopropyl-3,6-dimethoxy-5-((S)-2-phenyl-butyl)-2,5-dihydro-pyrazine | 14.8 mmol, 4.69 g | C(C)(C)[C@H]1N=C([C@@H](N=C1OC)C[C@H](CC)C1=CC=CC=C1)OC | C19H28N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 440 ml | O | H2O
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | (2S,4S)-2-Amino-4-phenyl-hexanoic acid methyl ester | 2.78 g, 85% | COC([C@H](C[C@H](CC)C1=CC=CC=C1)N)=O | C13H19NO2
